US07465731B2
A mixture of (6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl)methanol (0.96 g) and MnO2 (2.951 g) in AcOEt (50 ml) was refluxed under stirring for 1.5 hour. After removal of the insoluble material, and the solvent was evaporated in vacuo to give 6-[(1-benzyl-3-pyrrolidinyl)amino]nicotinaldehyde (0.75 g)

reactant | (6-[(1-benzyl-3-pyrrolidinyl)amino]-3-pyridyl)methanol | 0.96 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=CC=C(C=N1)CO | C17H21N3O
solvent | AcOEt | 50 ml | CCOC(=O)C | C4H8O2
catalyst | MnO2 | 2.951 g | O=[Mn]=O
product | 6-[(1-benzyl-3-pyrrolidinyl)amino]nicotinaldehyde | 0.75 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C=O)C=C1 | C17H19N3O
